US06680317B2
N,N-Dimethyl-6chloro-2-hydroxy-3-nitrobenzenesulfonamide
A mixture of N,N-dimethyl-2,6-dichloro-3-nitrobenzenesulfonamide (2.64 g, 8.83 mmol), 60% sodium hydride (1.06 g, 26.5 mmol) and water (191 mg, 10.6 mmol) was heated to 35° C. while kept under argon atmosphere for 16 hours. The solvent was evaporated. when The reaction was almost complete as indicated by 1H NMR. The residue was diluted with ethyl acetate and washed with 1N aq. HCl. The solvent was concentrated to give the crude material. Column chromatography on silica gel, eluting with ethyl acetate/hexane/acetic acid (40/58/2, v/v/v), gave the desired product (2.3 g, 93%). EI-MS (m/z)279.5 (M−).

reactant | N,N-dimethyl-2,6-dichloro-3-nitrobenzenesulfonamide | 8.83 mmol, 2.64 g | CN(S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C | C8H8Cl2N2O4S
reactant | sodium hydride | 26.5 mmol, 1.06 g | [H-].[Na+]
reactant | water | 10.6 mmol, 191 mg | O | H2O
product | N,N-Dimethyl-6chloro-2-hydroxy-3-nitrobenzenesulfonamide | 2.3 g, 93% | CN(S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O)C | C8H9ClN2O5S
